*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/
*   www.st.com
*                                             
* 
*****************************************************
*     Model Generated by STMicroelectronics         *
*             All Rights Reserved               *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 26-01-2012                        *
*                                                   *
* POWER MOSFET Model (level 3)                      *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Drain                                    *
* PIN 2 -> Gate                                     *
* PIN 3 -> Source                                   *
*                                                   *
*                    ****C****                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*            <<<<<<<<<<<ByE.>>>>>>>>>>>             *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************


.SUBCKT STD155N3LH6 1 2 3; D G S
LG 2 4  4.5n
LS 12 3 4.5n
LD 6 1  2.1n
RG 4 5  1.5
RS 9 12 0.108E-04
RD 7 6  0.121E-03
RJ 8 7  0.101E-04
CGS 5 9   0.399E-08
CGD 7 10  0.336E-08
CK  11 7  0.486E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.729
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 2.641
+ PHI   = 0.728
+ IS    = 0.1P
+ JS    = 0
+ THETA = 2.01
+ KP    = 953.657
+ eta   = 0.298E-02
 
.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.459E-10
+ VJ    = 0.722
+ M     = 0.359
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.266E-11
+ VJ    = 0.748
+ M     = 0.329
.MODEL DBS D
+ IS    = 0.1P
+ BV    = 34
+ N     = 1
+ TT    = 0.341E-07
+ RS    = 0.246E-01
.MODEL DID D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 36
 
.ENDS STD155N3LH6
 
* END OF MODELLING
