* AD8212 SPICE MACRO MODEL
* Description: Current Sense Amplifier
* Developed by: Analog Devices
* Created on 1/29/2013
* Copyright (1/2013)
*
*
* For more information, or the latest model, please visit www.analog.com

* Node Assignments
*               Supply source side input
*               |   Load side input
*               |   |   Output (current)
*         		|	|   |	  SUPPLY COMMON 
*               |   |   |      |     Base drive to PNP pass transistor for HighV operation
*               |   |   |      |     |     Device Biasing pin.
*               |   |   |      |     |     |
.SUBCKT AD8212 INP INN IOUT COMMON ALPHA BIAS
*----------------------------------------------------
*Input impedance modelling
*Differential:
*R1 INP INN 2e3
*Common Mode:
I1 INN 0 200e-9

* BIAS SUPPLY STAGE
I10 INP BIAS 151e-6
D10 BIAS INP DREG
R10 INP BIAS 101.75e3

*COMMON AND ALPHA PIN WIRING
V2 INP COMREF 5
R3 COMREF COMMON 1
I20 ALPHA INP 1e-3
R20 INP ALPHA 5.7e3

*SUPPLY DUPLICATION -- FUNCTIONAL BEHAVIOR MODELLING
E1 SUPDUP 0 INP 0 1

*FEEDBACK NETWORK /OUTPUT
R4 SUPDUP GMN 1E3
Q1 IOUT GMOC GMN GENERICPNP
E2 GMOC 0 GMO 0 1
C1 IOUT 0 15.6E-12


*GAIN STAGE
G1 GMO 0 GMN GMP 0.01
R5 GMO 0 1E8
D2 GMO GMOCLAMP DREG
V5 SUPDUP GMOCLAMP 0.378

*NOISE 
E3 INN GMP NOISENODE 0 1
R6 NOISENODE 0 96.6E3


.MODEL DREG D IS=1E-15
.MODEL GENERICPNP PNP IS=1E-12 BF=500
.ends AD8212