* AD8214 PSPICE netlist of the AD8214 detector model.
* Description: Amplifier
* Generic Desc: XF65, CS Comparator, 65V, 200ns
* Developed by: 
* Revision History: 08/10/2012 - Updated to new header style
* 
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node assignments
*                positive supply
*                |  non-inverting input
*                |  |    inverting input
*                |  |     |    Regulator Reference
*                |  |     |    |    Ground
*                |  |     |    |    |   Output
*                |  |     |    |    |    |
.SUBCKT AD8214  VS VNINV VINV VREG GND VOUT
X1 HOUT1 HOUT UTD
EB4 NDL GND VALUE = { IF (V(HOUT1) > V(VS)/2 , 1M , 100N) }
D1 VNINV VINTS D1
.MODEL D1 D
D2 VREG VNINV D1
D3 VINV VINTS _D3_MOD
.MODEL _D3_MOD D IS=10E-14
D4 VREG VINV D1
EB6 VINTS GND VALUE = { V(VS) }
ROP HOUT GND 1G
IBIAS 0 VINV DC=12.18N
EB5 DL GND VALUE = { IF (V(HOUT) > V(VS)/2 , 1M , 100N) }
CRFT VOUT 0 20P
GB1 GND VS VALUE = { IF (I(V4) > 200U | V(VOUT) > 3.1 , 1.232M , 272U) }
V4 18 VOUT
X2 10 7 VINTS GND HOUT1 AEICOM 
GB2 GND 18 VALUE = { IF (V(VINV) < 2 , 1m , IF ( V(VINV) > V(VNINV) , V(DL) , V(NDL))) } 
R3 VNINV 10 2MEG
R4 VINV 7 2MEG
EB3 VINTS VREG VALUE = { IF (V(VS) > 2.43 , 2.43 , 0) }
.ENDS
*$
.SUBCKT UTD 1 2
RIN 1 0 1E15
E1 3 0 1 0 1.0000 
T1 3 0 2 0 Z0=1 TD=85.000N
R1 2 0 1
.ENDS
*$
.SUBCKT AEICOM 13 15 12 16 14
VOS 15 8 DC 1.5E-3
EC 9 0  14 0  1
C1 6 7 40E-15
RP 16 12 10.35E3
GB 11 0  3 0  1.67E3
RD1 6 16 16E3
RD2 7 16 16E3
ISS 12 1 DC 100E-6
CCI 3 11 2.2E-18
GCM 0 3  0 1  1.76E-9
GA 3 0  7 6  780E-6
RE 1 0 2.5E6
RGM 3 0 10.1E2
VC 12 2 DC 2.8
VE 10 16 DC 3.1
RO1 11 14 50
CE 1 0 2E-18
RO2 0 11 50
RS1 1 4 5.77E3
RS2 1 5 5.77E3
J1 6 13 4 FET
J2 7 8 5 FET
DC 14 2 DIODE
DE 10 14 DIODE
DP 16 12 DIODE
D1 9 11 DIODE
D2 11 9 DIODE
IOS 15 13 12.5E-12
.MODEL DIODE D
.MODEL FET PJF(VTO=-1 BETA=1E-3 IS=50E-12)
.ENDS




