****************************************************************************************
* AD8233 SPICE Macro-Model		**		*
* Function: WLCSP. Low Noise, Heart Rate Monitor for Wearable Products				*
* Generated by EA				
****************************************************************************************
*Revision History:
*Rev A July 13 2016 - EA
*Rev B Apr 12 2019 - Fixed ppp floating node - EA
****************************************************************************************
* Copyright 2016 by Analog Devices, Inc.
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html 
* for License Statement. Use of this model indicates your acceptance
* of the terms and provisions in the License Statement.
*
*
* Node Assignments  A1     
*		    |     B1
*		    |     |     C1
*		    |     |     |   D1
*		    |     |     |   |   A2
*		    |     |     |   |   |     B2
*		    |     |     |   |   |     |           C2
*		    |     |     |   |   |     |           |	   D2
*		    |	  |     |   |   |     |           |        |      A3
*		    |	  |     |   |   |     |           |        |      |     B3
*		    |	  |     |   |   |     |           |        |      |     |   C3
*		    |	  |     |   |   |     |           |        |      |     |   |      D3
*		    |	  |     |   |   |     |           |        |      |     |   |      |      A4
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       B4
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       |     C4
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       |     |   D4
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       |     |   |     A5
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       |     |   |     |     B5
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       |     |   |     |     |    C5
*		    |	  |     |   |   |     |           |        |      |     |   |      |      |       |     |   |     |     |    |   D5
.SUBCKT AD8233     GND SDN_BAR LOD OUT +VS AC_DC_BAR RLD_SDN_BAR OPAMP- REFIN  FR REFOUT OPAMP+ HPSENSE IAOUT RLDFB SW HPDRIVE +IN -IN  RLD          

C6 0 47 1e-006
C5 0 23 1.5727e-006
I20 0 ppp dc -2.5e-006 ac 0 0
C16 HPDRIVE 0 1.5727e-006
EV38 17 0 VALUE = { if(V(VVV)<0,-V(VVV)-15m,V(VVV)-30m) }
EV35 IAOUT 0 47 0 1
R46 0 47 10000000 
G19 0 47 18 47 1
V34 VCCX 49 dc 0.9 ac 0 0
D21 47 49 DW
V33 48 0 dc 0.8 ac 0 0
D20 48 47 DW
V32 VCCX 44 dc 0.7 ac 0
V31 45 0 dc 0.72 ac 0 0
D19 IN+ 44 DW
D18 45 IN+ DW
V30 VCCX 37 dc 0.7 ac 0 0
V29 43 0 dc 0.72 ac 0 0
D17 IN- 37 DW
D16 43 IN- DW
V28 25 +IN dc 0.001 ac 0 0
I18 0 +IN dc 5e-011 ac 0 0
I17 -IN 0 dc 5e-011 ac 0 0
R45 41 +IN 0.1
R44 -IN 52 0.1
V27 20 -IN dc 0.27 ac 0 0
V26 42 +IN dc 0.27 ac 0 0
D15 52 42 DY
D14 41 20 DY
GI16 ppp 0 VALUE = { if(V(VVV)<0,V(XXX)*.08*(V(VVV)/-.3),0) }
R43 YYY 34 20
R42 32 YYY 2200
C14 32 34 700e-009
R41 YYY 0 1000
E25 32 0 33 0 1
R40 33 31 20
R39 29 33 2200
C13 29 31 700e-009
R38 33 0 1000 
E24 29 0 35 0 1
R37 VCM 35 100000
C12 VCM 35 2e-009
R36 35 0 1000
GI15 ppp 0 VALUE = { if(V(VVV)>0,V(YYY)*.08*(V(VVV)/.3),0) }
R35 XXX 21 20
R34 38 XXX 3100
C11 38 21 800e-009
R33 XXX 0 1000
E23 38 0 30 0 1
R31 30 19 20
R30 51 30 3100
C10 51 19 800e-009
R29 30 0 1000
E22 51 0 24 0 1
R28 VCM 24 100000
C9 VCM 24 2e-009
R27 24 0 1000
GI14 B 0 VALUE = { ((V(+IN)-V(-IN))/0.3)*0.0000063*V(56) }
E21 56 0 55 0 3.46
D13 17 55 DZ
R26 55 0 3300
R25 26 0 1800
E17 36 0 53 0 1
R19 36 26 160000
C8 36 26 1.05e-09
R18 VCM 53 160000
C7 VCM 53 1.05e-09
R17 53 0 1800
EV36 54 0 -IN 0 1
EV7 50 0 +IN 0 1
R16 54 40 1000000
C17 0 40 1.5915e-005
R15 50 28 1000000
C15 0 28 1.5915e-005
E16 VVV 0 28 40 1
GI13 ppp 0 26 0 0.09
E15 VCM 0 46 0 1
R13 46 IN+ 100000000
R12 IN- 46 100000000
R11 0 IN- 10000000
GI12 0 IN- -IN IN- 1
R10 0 IN+ 10000000
GI11 0 IN+ 25 IN+ 1
E2 18 0 23 0 1
E1 22 0 HPDRIVE 0 1
R9 0 HPDRIVE 320000
GI10 0 HPDRIVE REFOUT HPSENSE 1
R8 REFOUT B 1000
R7 18 B 99000
C4 ppp 23 16.2e-007
R47 ppp 0 10000000
R6 0 23 320000
GI9 0 23 REFOUT ppp 1
GI8 REFOUT ppp B 22 1
GI7 REFOUT ppp IN- IN+ 1
C3 0 3 11.37e-006
R32 0 3 100000
R24 39 RLD_SDN_BAR 10000000
R23 39 SW 10000000
R22 39 LOD 10000000
R21 39 AC_DC_BAR 10000000
R20 39 SDN_BAR 10000000
R3 39 FR 10000000
R14 0 27 100000 
V18 REFIN 14 dc 0.001 ac 0 0
D7 27 16 DX
V20 VCCX 16 dc 0.1 ac 0 0
D5 11 13 DX
V14 VCCX 13 dc 0.1 ac 0 0
D6 15 27 DX
V19 15 0 dc 0.1 ac 0 0
D4 12 11 DX
V13 12 0 dc 0.1 ac 0 0
C2 27 0 11.37e-006
I6 REFIN 0 dc 1e-010 ac 0 0
GI4 0 27 14 27 1
EV3 REFOUT 0 27 0 1
D8 2 6 DX
V5 VCCX 6 dc 0.1 ac 0 0
D3 10 2 DX
V10 10 0 dc 0.1 ac 0 0
R5 VCM RLDFB 150000
C1 0 11 11.37e-006
E12 RLD 0 11 0 1
R4 0 11 100000
GI5 0 11 REFOUT RLDFB 1
D10 8 1 DX
V11 8 0 dc 0.1 ac 0 0
D1 1 9 DX
V8 VCCX 9 dc 0.1 ac 0 0

R1 0 1 10000000000
GI2 0 1 4 1 1
D9 7 3 DX
D2 3 5 DX
V9 7 0 dc 0.1 ac 0 0
V4 VCCX 5 dc 0.1 ac 0 0
R2 0 2 10000000000
I26 +VS 0 dc 0.00005 ac 0 0
E52 VCCX 0 +VS 0 1
IBN_OPAMP 0 OPAMP- dc 5e-011 ac 0 0
GI3 0 2 OPAMP- 2 1
VOSIN_OPAMP OPAMP+ 4 dc 0.001 ac 0 0
E6 OUT 0 3 0 1
GI1 0 3 1 2 1
IBP_OPAMP OPAMP+ 0 dc 5e-011 ac 0 0

.model DX  D(IS=5)
.model DW  D
.model DY  D(IBV=1e-012)
.model DZ  D(IS=1e-009)

.ENDS AD8233

